US06887875B2
Pd(PPh3)4 (8 mg) is added to a solution of 2-chloro-5-(2,4-dimethoxy-phenyl)-3,6-diethyl-pyrazine (70 mg) in DME (2 ml) at room temperature, followed by 2-methoxy-5-fluorophenylboronic acid (45 mg) and Na2CO3 (1M, 0.5 ml). The resulting mixture is heated to 90° C. for 20 hours, then cooled to room temperature. The reaction mixture is diluted with 50% EtOAc in hexane and washed with water and brine, dried, filtered and evaporated. The crude is purified by chromatography (eluted with 15% EtOAc in hexane) to give 2-(2,4-Dimethoxy-phenyl)-3,6-diethyl-5-(5-fluoro-2-methoxy-phenyl)-pyrazine compound 3. MS: 397.3 (M+1).

reactant | 2-chloro-5-(2,4-dimethoxy-phenyl)-3,6-diethyl-pyrazine | 70 mg | ClC1=NC(=C(N=C1CC)C1=C(C=C(C=C1)OC)OC)CC | C16H19ClN2O2
reactant | 2-methoxy-5-fluorophenylboronic acid | 45 mg | COC1=C(C=C(C=C1)F)B(O)O | C7H8BFO3
reactant | Na2CO3 | 1M, 0.5 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 2 ml | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
catalyst | Pd(PPh3)4 | 8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,4-Dimethoxy-phenyl)-3,6-diethyl-5-(5-fluoro-2-methoxy-phenyl)-pyrazine | COC1=C(C=CC(=C1)OC)C1=NC(=C(N=C1CC)C1=C(C=CC(=C1)F)OC)CC | C23H25FN2O3
